US08420863B2
(E)-3-(2-Chloro-6-methylstyryl)benzaldehyde was reacted with acetonitrile according to the procedure used in Example 50. Purification by flash chromatography (10 to 70% EtOAc-hexanes gradient) gave (E)-3-(3-(2-chloro-6-methylstyryl)phenyl)-3-hydroxypropanenitrile as an oil. Yield 0.0708 g, 77%): 1H NMR (400 MHz, CDCl3) δ 7.51-7.53 (m, 2H), 7.41 (t, J=8.0 Hz, 1H), 7.25-7.33 (m, 2H), 7.07-7.20 (m, 3H), 6.80 (d, J=16.8 Hz, 1H), 5.08 (t, J=6.4 Hz, 1H), 2.80 (dd, J=6.4, 0.8 Hz, 2H), 2.43 (s, 3H).

reactant | (E)-3-(2-Chloro-6-methylstyryl)benzaldehyde | ClC1=C(/C=C/C=2C=C(C=O)C=CC2)C(=CC=C1)C | C16H13ClO
reactant | acetonitrile | C(C)#N | C2H3N
product | (E)-3-(3-(2-chloro-6-methylstyryl)phenyl)-3-hydroxypropanenitrile | ClC1=C(/C=C/C=2C=C(C=CC2)C(CC#N)O)C(=CC=C1)C | C18H16ClNO
